US09328067B2
2-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)benzamide
A mixture of 2-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)benzoic acid (156 mg, 0.29 mmol), HOBT (59 mg, 0.44 mmol), EDC (84 mg, 0.44 mmol), and NH3—H2O (28-30% NH3 basis, 2×4 ml, excess) in DMF (3 ml) was stirred at room temperature overnight. The mixture was diluted with water, extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (40˜100% EtOAc in hexane) to yield the title compound (69 mg, 45%).

reactant | 2-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)benzoic acid | 0.29 mmol, 156 mg | ClC1=CC(=C(C=C1)SCC1=C(C(=O)O)C=CC=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C21H14Cl2F3NO4S2
reactant | HOBT | 0.44 mmol, 59 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.44 mmol, 84 mg
reactant | NH3—H2O | 4 ml | N.O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfanyl}methyl)benzamide | 69 mg, 45% | ClC1=CC(=C(C=C1)SCC1=C(C(=O)N)C=CC=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C21H15Cl2F3N2O3S2
